US06392077B1
In the same apparatus and procedure as Example 1 above, 0.29 g (0.75 mmol) of benyltriphenylphosphonium chloride, 0.92 g (7.5 mmol) of (chloromethyl)trimethylsilane, and 3.05 g (22.5 mmol ) of trichlorosilane were reacted at 150° C. for 10 hrs. The resulting mixture was distilled to give 1.20 g of 1,1,1-trichloro-3,3-dimethyl-1,3-disilabutane (yield; 72%).

reactant | (chloromethyl)trimethylsilane | 7.5 mmol, 0.92 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | trichlorosilane | 22.5 mmol, 3.05 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | benyltriphenylphosphonium chloride | 0.75 mmol, 0.29 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1,1,1-trichloro-3,3-dimethyl-1,3-disilabutane | 1.20 g, yield; 72% | Cl[Si](C[Si](C)(C)C)(Cl)Cl | C4H11Cl3Si2
